US08389526B2
(rac)-6-[1-(6-Chloro-imidazo[1,2-b]pyridazin-3-yl)-ethyl]-5,7-difluoro-quinoline
(rac)-1-(6-Chloro-imidazo[1,2-b]pyridazin-3-yl)-1-(5,7-difluoro-quinolin-6-yl)-ethanol (Intermediate D, 23.2 g, 63.7 mmol was dissolved in acetic acid (317 mL) and introduced in 23 microwave reactor-vials. Iodide (2.11 g×23, 191 mmol), followed by H3PO2 50% (2.28 mL×23, 464 mmol) were then added into each vial. Then they were submitted to microwave irradiations 5 min at 150° C. The combined RMs were concentrated in vacuo and the residue was diluted with water, basified by a 4 M NaOH solution and extracted with EtOAc (3×). The organics were joined and washed with brine, dried over Na2SO4 and the solvent was removed. The residue was triturated with diisopropyl ether. The precipitate formed was filtered off to give a beige solid (tR 3.60 min (conditions 1), tR 9.76/10.87 min (conditions 2), MH+=345, 1H-NMR in DMSO-d6: 8.93 (d, 1H); 8.43 (d, 1H); 8.16 (d, 1H); 7.93 (s, 1H); 7.67 (d, 1H); 7.58 (m, 1H); 7.25 (d, 1H); 5.06 (q, 1H); 1.88 (d, 3H)).

reactant | (rac)-1-(6-Chloro-imidazo[1,2-b]pyridazin-3-yl)-1-(5,7-difluoro-quinolin-6-yl)-ethanol | ClC=1C=CC=2N(N1)C(=CN2)C(C)(O)C=2C(=C1C=CC=NC1=CC2F)F | C17H11ClF2N4O
reactant | Iodide | 191 mmol, 2.11 g | [I-]
reactant | H3PO2 | 464 mmol, 2.28 mL | O[PH2]=O | H3O2P
solvent | acetic acid | 317 mL | C(C)(=O)O | C2H4O2
product | (rac)-6-[1-(6-Chloro-imidazo[1,2-b]pyridazin-3-yl)-ethyl]-5,7-difluoro-quinoline | ClC=1C=CC=2N(N1)C(=CN2)C(C)C=2C(=C1C=CC=NC1=CC2F)F | C17H11ClF2N4
